data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_464053_0,[C:1]([C:2]([H:15])([H:16])[H:17])(/[C:3]([N:4]([H:11])[H:12])=[C:5](/[O:7][H:9])[H:13])([C:6](=[O:8])[H:14])[H:10]>>[C:1]1([C:2]([H:15])([H:16])[H:17])([H:10])[C:3]([N:4]([H:11])[H:12])([C:6](=[O:8])[H:14])[C:5]1([O:7][H:9])[H:13],63.81863250002709
MR_661827_2,[C:1]([N:3]([C:2]([H:17])([H:18])[H:19])/[C:4]([N:5]([H:10])[H:11])=[C:7](\[O:8][H:9])[H:16])([N:6]([H:12])[H:13])([H:14])[H:15]>>[C:1]([N:6]([H:12])[H:13])([C:7](/[C:4](=[N:3]\[C:2]([H:17])([H:18])[H:19])[N:5]([H:10])[H:11])([O:8][H:9])[H:16])([H:14])[H:15],64.81071000001918
MR_267481_1,[C:1]([N:3]([H:8])[H:11])([N:4]([H:9])[H:10])(/[C:5](=[N:6]/[C:2]([H:13])([H:14])[H:15])[H:12])[H:7]>>[C:1]1([N:3]([H:8])[H:11])([N:4]([H:9])[H:10])[C:5]([H:7])([H:12])[N:6]1[C:2]([H:13])([H:14])[H:15],47.86821000002746
MR_508020_1,[C:1]([C:3]([H:17])([H:18])[H:19])([C:5]([N:4]([N:6]([H:12])[H:13])[H:11])=[O:9])([O:7][C:2]([H:14])([H:15])[H:16])[O:8][H:10]>>[C:1]1([C:3]([H:17])([H:18])[H:19])([O:8][H:10])[C:5]([N:4]([N:6]([H:12])[H:13])[H:11])([O:7][C:2]([H:14])([H:15])[H:16])[O:9]1,66.16359999999204
MR_19654_0,[C@:1]1([C@:2]([C:5]([H:15])([H:16])[H:17])([O:7][H:8])[H:9])([C:4]([H:12])([H:13])[H:14])[C:3]([H:10])([H:11])[O:6]1>>[C:1](=[C:2](/[C:5]([H:15])([H:16])[H:17])[O:7][H:8])(\[C:3]([O:6][H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14],60.90515000003506
MR_298186_1,[N:1]([N:3]([H:10])[H:11])(/[N:7]=[C:2](\[N:4]([H:12])[H:13])[O:5][O:6][H:8])[H:9]>>[N:1](/[C:2]([N:4]([H:12])[H:13])=[N:7]/[O:5][O:6][H:8])([N:3]([H:10])[H:11])[H:9],73.18971750001609
MR_73653_1,[C:1]([C:2]([H:13])([H:14])[H:15])([C:4](/[C:5](=[C:6](\[C:3]([H:16])([H:17])[H:18])[H:12])[H:11])([O:8][H:9])[H:10])=[O:7]>>[C:1]([C:2]([H:13])([H:14])[H:15])([C:4](=[O:8])[H:10])(/[C:5](=[C:6](\[C:3]([H:16])([H:17])[H:18])[H:12])[H:11])[O:7][H:9],43.358994999997975
MR_176733_1,[C:1]([C:2](=[C:3]([H:11])[H:12])[H:10])([O:4][O:5][H:7])([O:6][H:8])[H:9]>>[C:1](=[C:2](\[C:3]([O:4][O:5][H:7])([H:11])[H:12])[H:10])(\[O:6][H:8])[H:9],49.35287499998864
MR_155708_0,[C:1]([C:2]([H:15])([H:16])[H:17])([N:3]([N:5]([H:11])[H:12])[O:7][N:4]([H:9])[H:10])([N:6]([H:13])[H:14])[H:8]>>[C:1]([C:2]([H:15])([H:16])[H:17])([N:3]([N:5]([H:11])[H:12])[N:6]([H:13])[H:14])([O:7][N:4]([H:9])[H:10])[H:8],61.48370500003679
MR_488271_2,[C:1]1([C:4]([H:13])([H:14])[H:17])([C:5]([H:15])([H:16])[H:18])[C:2]([O:7][H:8])([H:9])[C:3]1([N:6]([H:11])[H:12])[H:10]>>[C:1](=[C:2]([C:3]([N:6]([H:11])[H:12])([H:9])[H:10])[O:7][H:8])([C:4]([H:13])([H:14])[H:17])[C:5]([H:15])([H:16])[H:18],54.16705500003289
MR_333718_1,[N:1](/[C:2]([N:3]([H:11])[H:12])=[C:4](/[C:5](=[C:6]([H:15])[H:16])[H:14])[H:13])([O:7][H:9])[O:8][H:10]>>[N:1](/[C:4](=[C:2](\[N:3]([H:11])[H:12])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:13])([O:7][H:9])[O:8][H:10],70.14446000000007
MR_62717_1,[C:1]([C:2](=[C:3]([H:9])[H:10])[H:8])([O:4][H:11])([O:5][H:6])[H:7]>>[C:1]1([O:5][H:6])([H:7])[C:2]([C:3]([H:9])([H:10])[H:11])([H:8])[O:4]1,62.140069999984746
MR_284812_1,[C:1]([C:2]([C:3]([H:15])([H:16])[H:17])([N:5]([H:13])[H:14])[H:12])([C:4]([O:6][H:9])=[O:8])([O:7][H:10])[H:11]>>[C:1]([C:4]([C:2]([C:3]([H:15])([H:16])[H:17])([N:5]([H:13])[H:14])[H:12])=[O:8])([O:6][H:9])([O:7][H:10])[H:11],53.102815000008974
MR_230744_0,[C@:1]([C:2]([C:4]([H:17])([H:18])[H:19])([C:5]([H:20])([H:21])[H:22])[N:7]([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([N:6]([H:10])[H:11])[O:8][H:9]>>[C:1]([C:2]([C:4]([H:17])([H:18])[H:19])([C:5]([H:20])([H:21])[H:22])[O:8][H:9])([C:3]([H:14])([H:15])[H:16])([N:6]([H:10])[H:11])[N:7]([H:12])[H:13],68.17662000001036
MR_29796_0,[C:1](/[C:5]([C:7](=[C:6]([C:2]([H:14])([H:15])[H:18])[C:3]([H:16])([H:17])[H:19])[H:9])=[C:8](\[C:4]([H:20])([H:21])[H:22])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:5]1=[C:7]([H:9])[C:6]([C:2]([H:14])([H:15])[H:18])([C:3]([H:16])([H:17])[H:19])[C:8]1([C:4]([H:20])([H:21])[H:22])[H:10])([H:11])([H:12])[H:13],43.714159999993
MR_413448_1,[C:1]([C:2]([H:15])([H:16])[H:19])(/[N:4]=[C:5](\[C:6](=[C:3]([H:17])[H:18])[N:8]([H:11])[H:12])[N:7]([H:9])[H:10])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[C:2]([H:15])([H:16])[N:4]1/[C:5](=[C:6](\[C:3]([H:17])([H:18])[H:19])[N:8]([H:11])[H:12])[N:7]([H:9])[H:10],70.36282999998377
MR_193320_0,[C:1]([C:3](/[C:5](=[C:2](/[N:4]([H:9])[H:10])[O:7][H:8])[H:11])=[C:6]([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:1]([C:3]1=[C:5]([H:11])[C:2]([N:4]([H:9])[H:10])([O:7][H:8])[C:6]1([H:15])[H:16])([H:12])([H:13])[H:14],42.66372500000557
MR_543713_0,[C:1](=[C:3](\[O:7][H:9])[H:12])(\[C:4](=[C:5](/[N:2]([H:10])[H:11])[H:14])[H:13])[O:6][H:8]>>[C:1]1([O:6][H:8])=[C:4]([H:13])[C@@:5]([N:2]([H:10])[H:11])([H:14])[C@:3]1([O:7][H:9])[H:12],61.1630524999903
MR_346116_0,[C:1]1([C:3]([H:13])([H:14])[H:15])=[C:5]([H:11])[C:6]([O:8][H:9])([H:12])[C:2]([C:4]([H:16])([H:17])[H:18])([H:10])[O:7]1>>[C:1]1([C:3]([H:13])([H:14])[H:15])([O:8][H:9])[C:5]([H:11])=[C:6]([H:12])[C:2]([C:4]([H:16])([H:17])[H:18])([H:10])[O:7]1,54.21286250002424
